US07265131B2
The crude 4-bromofuran-2-carboxylic acid was placed in a 250 mL round bottom flask equipped with a magnetic stirring bar and a reflux condenser, and the flask was alternately evacuated and filled with nitrogen several times. To the stirred solid was carefully added α,α-dichloromethyl methyl ether (50 mL, 563 mmol). The addition was accompanied by vigorous gas evolution and was very exothermic, bringing the temperature of the resulting brown frothy mixture nearly to reflux. The gas evolution was allowed to subside, then the brown mixture was slowly heated to reflux using a heating mantle. The thick, partially solidified reaction mixture was then diluted with additional α,α-dichloromethyl methyl ether (20 mL, 225 mmol) to afford a dark brown solution containing some large black solid chunks. After heating at reflux for 135 minutes, the reaction was allowed to cool to ambient temperature, and then concentrated under reduced pressure. The resulting dark brown semi-solid was held under high vacuum to remove the last traces of solvents. While being held under vacuum at ambient temperature, some large colorless prisms appeared on the upper walls of the flask. The crude 4-bromofuran-2-carbonyl chloride was obtained as a dark brown semi-solid, and was used in the next step without purification.

reactant | 4-bromofuran-2-carboxylic acid | BrC=1C=C(OC1)C(=O)O | C5H3BrO3
reactant | α,α-dichloromethyl methyl ether | 563 mmol, 50 mL | COC(Cl)Cl | C2H4Cl2O
reactant | α,α-dichloromethyl methyl ether | 225 mmol, 20 mL | COC(Cl)Cl | C2H4Cl2O
product | 4-bromofuran-2-carbonyl chloride | BrC=1C=C(OC1)C(=O)Cl | C5H2BrClO2
